US09376449B2
To a mixture of a mixture (1.85 g) of 8-{2-[(tert-butoxycarbonyl)amino]ethyl}-4-chloro-1,6-dihydro-2H-furo[3,2-e]indole-7-carboxylic acid and 7-{2-[(tert-butoxycarbonyl)amino]ethyl}-8-chloro-3,5-dihydro-2H-furo[2,3-f]indole-6-carboxylic acid, and diisopropylethylamine (4.16 mL), methylamine hydrochloride (988 mg), and N,N-dimethyl formamide (37.0 mL) was added 2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (2.77 g), followed by stirring at room temperature overnight. To the mixture was added water under ice-cooling, and the precipitated solid was collected by filtration and dried under reduced pressure to obtain a yellowish brown solid. This was purified by silica gel column chromatography (toluene:chloroform:methanol=5:4:0 to toluene:chloroform:methanol=50:40:6) to obtain tert-butyl {2-[4-chloro-7-(methylcarbamoyl)-1,6-dihydro-2H-furo[3,2-e]indol-8-yl]ethyl}carbamate (213 mg) of a high-polarity fraction as a compound of Preparation Example 26. Further, the low-polarity fraction was concentrated under reduced pressure and the obtained residue was solidified with ethanol to obtain a yellow solid of tert-butyl {2-[8-chloro-6-(methylcarbamoyl)-3,5-dihydro-2H-furo[2,3-f]indol-7-yl]ethyl}carbamate (750 mg) as a compound of Preparation Example 66 as shown in the table below.

reactant | 8-{2-[(tert-butoxycarbonyl)amino]ethyl}-4-chloro-1,6-dihydro-2H-furo[3,2-e]indole-7-carboxylic acid | 1.85 g | C(C)(C)(C)OC(=O)NCCC1=C(NC2=CC(=C3C(=C12)CCO3)Cl)C(=O)O | C18H21ClN2O5
reactant | 7-{2-[(tert-butoxycarbonyl)amino]ethyl}-8-chloro-3,5-dihydro-2H-furo[2,3-f]indole-6-carboxylic acid | C(C)(C)(C)OC(=O)NCCC1=C(NC=2C=C3C(=C(C12)Cl)OCC3)C(=O)O | C18H21ClN2O5
reactant | diisopropylethylamine | 4.16 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methylamine hydrochloride | 988 mg | Cl.CN
reactant | 2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 2.77 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | water | O | H2O
solvent | N,N-dimethyl formamide | 37.0 mL | CN(C=O)C | C3H7NO
product | tert-butyl {2-[4-chloro-7-(methylcarbamoyl)-1,6-dihydro-2H-furo[3,2-e]indol-8-yl]ethyl}carbamate | 213 mg | ClC1=C2C(=C3C(=C(NC3=C1)C(NC)=O)CCNC(OC(C)(C)C)=O)CCO2 | C19H24ClN3O4
